US08084481B2
1-[2-(5-chloro-2-thienyl)-2-oxoethyl]-3-(2-fluorobenzyl)-urea
850 mg (4.007 mmol) of 2-amino-1-(4-chlor-2-thienyl)ethanone hydrochloride are placed in 26 ml dichloromethane, cooled to 0° C. and treated dropwise with a solution of 606 mg (4.007 mmol) of 2-fluorobenzyl isocyanate in 2 ml dichloromethane. It is stirred for 10 mins more at 0° C. and then a solution of 518 mg (4.007 mmol) of N,N-diisopropylethylamine in 4 ml dichloromethane is added dropwise. After two hours' stirring at room temperature the reaction mixture is evaporated and the crude product (1300 mg, 99% of theory) further reacted without purification.

reactant | 2-amino-1-(4-chlor-2-thienyl)ethanone hydrochloride | 4.007 mmol, 850 mg | Cl.NCC(=O)C=1SC=C(C1)Cl
reactant | 2-fluorobenzyl isocyanate | 4.007 mmol, 606 mg | FC1=C(CN=C=O)C=CC=C1 | C8H6FNO
reactant | N,N-diisopropylethylamine | 4.007 mmol, 518 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 26 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-[2-(5-chloro-2-thienyl)-2-oxoethyl]-3-(2-fluorobenzyl)-urea | ClC1=CC=C(S1)C(CNC(=O)NCC1=C(C=CC=C1)F)=O | C14H12ClFN2O2S
